US04948795
To a mixture solution of 2-(3-pyridyl)thiazolidine-4-carboxylic acid 0.5 g, 1-[3-(2-furyl)propyl]piperazine.2 hydrochloride 0.54 g and N,N-dimethylformamide 5 ml were added N-methylmorpholine 0.2 g and N,N-dimethylformamide 2 ml under ice-cooling. Further 1-hydroxybenzotriazole 0.4 g was added, then dicyclohexylcarbodiimide 0.46 g added and the mixture was stirred overnight at room temperature. Ethyl acetate 50 ml and water 10 ml were added, the solution basified with sodium hydrogen carbonate, the insoluble matter filtered off and the solution transferred into a separtating funnel. The aqueous layer was extracted with ethyl acetate, the extract combined with the organic layer, washed with water and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with a mixture solution of ethyl acetate - methanol (4:1) to give 0.25 g of oily 1-[3-(2-furyl)-propyl]-4-[2-(3-pyridyl)thiazolidine-4-ylcarbonyl]piperazine.

reactant | 2-(3-pyridyl)thiazolidine-4-carboxylic acid | 0.5 g | N1=CC(=CC=C1)C1SCC(N1)C(=O)O | C9H10N2O2S
reactant | 1-[3-(2-furyl)propyl]piperazine | O1C(=CC=C1)CCCN1CCNCC1 | C11H18N2O
reactant | hydrochloride | 0.54 g | Cl | ClH
reactant | N-methylmorpholine | 0.2 g | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 0.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 0.46 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 10 ml | O | H2O
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[3-(2-furyl)-propyl]-4-[2-(3-pyridyl)thiazolidine-4-ylcarbonyl]piperazine | 0.25 g | O1C(=CC=C1)CCCN1CCN(CC1)C(=O)C1NC(SC1)C=1C=NC=CC1 | C20H26N4O2S
